US04264504
Preparation of 10-decarbamoyloxy-9-dehydro-mitomycin B (Compound I)
In this example, 100 mg of mitomycin B is dissolved in 5 ml of dioxane. To this solution, 100 mg of potassium t-butoxide is added and the mixture is stirred at room temperature for 2 days. The reaction mixture is then neutralized with an excess amount of dry ice and subjected to filtration. The filtrate is concentrated under reduced pressure and the residue is then subjected to silica gel column chromatography using a mixed solvent of acetone and chloroform (1:4) (volume ratio as is the same hereinafter) as a developer. Fractions of eluate which have a high Rf value and are blue are combined and concentrated under reduced pressure. The residue is crystallized from acetone and petroleum ether to obtain 14 mg of the desired compound (yield 17.0%) as purplish black needle-like crystals having the following physical properties.

reactant | mitomycin B | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@H]2COC(=O)N)O)N4C)OC | C16H19N3O6
reactant | potassium t-butoxide | 100 mg | CC(C)([O-])C.[K+]
reactant | dry ice | C(=O)=O | CO2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 10-decarbamoyloxy-9-dehydro-mitomycin B | 14 mg, yield 17.0% | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3(C2=C)O)N4C)OC | C15H16N2O4
